US07691882B2
5-Methyl-2-(4-(2-nitro-ethyl)-benzyloxy)pyridine
To a dimethyl sulfoxide (40.0 mL) solution of 5-methyl-2-(4-((E)-2-nitro-vinyl)-benzyloxy)-pyridine (3.50 g, 12.9 mmol) described in Manufacturing Example 44-1-3 and acetic acid (3.50 mL) was added sodium borohydride (822 mg, 20.6 mmol) at room temperature while cooling appropriately under nitrogen atmosphere, which was stirred for 10 minutes. Water was then added dropwise at room temperature while cooling appropriately. The reaction mixture was extracted with ethyl acetate, and the organic layer was washed with water and saturated aqueous sodium chloride, dried over anhydrous magnesium sulfate, and filtered. The filtrate was concentrated under a reduced pressure, and the residue was purified by NH silica gel column chromatography (ethyl acetate:heptane=1:4) to obtain the title compound (1.91 g, 54.3%).

reactant | dimethyl sulfoxide | 40.0 mL | CS(=O)C | C2H6OS
reactant | 5-methyl-2-(4-((E)-2-nitro-vinyl)-benzyloxy)-pyridine | 12.9 mmol, 3.50 g | CC=1C=CC(=NC1)OCC1=CC=C(C=C1)\C=C\[N+](=O)[O-] | C15H14N2O3
reactant | acetic acid | 3.50 mL | C(C)(=O)O | C2H4O2
reactant | sodium borohydride | 20.6 mmol, 822 mg | [BH4-].[Na+]
solvent | Water | O | H2O
product | 5-Methyl-2-(4-(2-nitro-ethyl)-benzyloxy)pyridine | 1.91 g, 54.3% | CC=1C=CC(=NC1)OCC1=CC=C(C=C1)CC[N+](=O)[O-] | C15H16N2O3
